Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5][H:6],3.948069789
[C:9][H:10].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-8.78372164204
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[H:1],5.43537852559
[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],1.44792699239
[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[O:8])[H:9],-5.887451019229999
[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.5991093167
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])#[C:5][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:6][H:7],-1.07749903089
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])([C:4]#[C:5][C:6][C:8]([H:9])[H:10])[H:7],3.98526312031
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9].[O:1]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-7.04974831098
[C:4]([C:5]([H:6])([H:7])[H:8])([H:10])[H:11].[H:1][C:2]([H:3])=[C:9][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.311885642769998
[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][C:11]([H:12])([H:13])[H:14],-4.14450828177
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C@:5]([O:6][H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],4.61223285417
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])\[C:10]([H:11])=[C:12]\[C:13]([H:14])([H:15])[H:16].[H:9],1.7136091145200003
[O:1]=[C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.17633591138
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.86048827561
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11]>>[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11]1,-1.06819313908
[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:8]([C:3](=[C:2]=[C:12]([H:13])[H:14])[C:4]([H:5])([H:6])[H:7])=[C:9]([H:10])[H:11],-1.33671713844
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],4.95659639056
[O:1][C@@:2]([C:3]#[C:4][H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7],2.02553678474
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],4.29221479404
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:10](=[O:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12],-4.06549814558
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5],3.78697578113
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-5.56440244748
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7]1/[C:8][C:9]1([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-1.82777762175
[C:8]([H:9])[H:10].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-4.319657359630001
[H:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8]/[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.75173279667
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],5.00315279115
[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-7.50221122768
